* C:\Users\germa\Documents\GitHub\TP_FE\Spice\3 quiza.asc
R1 N001 A 50
R2 B N001 500K
D1 0 B 1N4148
V§AC1 N002 0 AC AC 1
V§DC A N002 5
.model D D
.lib C:\Users\germa\Documents\LTspiceXVII\lib\cmp\standard.dio
.ac dec 1MEG 1 1G
.backanno
.end
